US05846982
4-hydroxy-3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-1H-indole
Following the procedure described in detail in Example 58, 0.300 gm (1.1 mMol) 4-cyclopropylmethoxy-3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-1H-indole were reacted with trimethylsilyl iodide to provide 0.11 gm (44%) of the title compound as a tan solid.

reactant | 4-cyclopropylmethoxy-3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-1H-indole | 1.1 mMol, 0.300 gm | C1(CC1)COC1=C2C(=CNC2=CC=C1)C=1CCN(CC1)C | C18H22N2O
reactant | trimethylsilyl iodide | C[Si](C)(C)I | C3H9ISi
product | 4-hydroxy-3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-1H-indole | 0.11 gm, 44% | OC1=C2C(=CNC2=CC=C1)C=1CCN(CC1)C | C14H16N2O
